US06316438B1
1-(9-Chloro-3-ethyl-3H-pyrazolo[4′,3′:5,6]pyrido[3,4-d]pyridazin-6-yl)-4-piperidinol
To a suspension of 6,9-dichloro-3-ethyl-3H-pyrazolo[4′,3′:5,6]pyrido[3,4-d]pyridazine (3.2 g, 12.0 mmol) in THF/ethanol (40 mL, 1:1) in a 100 mL pressure tube was added triethylamine (5 eq) and 4-hydroxy-piperidine (1.1 eq) sequentially. The reaction mixture was heated in an oil bath at 60° C. for 2 h. The progress of the reaction was monitored by HPLC. The reaction mixture was transferred to a 200 mL round-bottomed flask, and the solvent was removed via evaporation under reduced pressure. The light brown residue was resuspended in saturated sodium bicarbonate (100 mL), and the precipitated solid was collected by filtration. This orange solid was washed thoroughly with water and dried in a vacuum oven at 40° C. over night to afford the title compound (3.2 g, 80% yield). This material was >93% pure and was used directly without further purification.

reactant | 6,9-dichloro-3-ethyl-3H-pyrazolo[4′,3′:5,6]pyrido[3,4-d]pyridazine | 12.0 mmol, 3.2 g | ClC1=NN=C(C2=C1C=NC1=C2C=NN1CC)Cl | C10H7Cl2N5
reactant | triethylamine | 5 eq | C(C)N(CC)CC | C6H15N
reactant | 4-hydroxy-piperidine | 1.1 eq | OC1CCNCC1 | C5H11NO
solvent | THF ethanol | 40 mL | C1CCOC1.C(C)O
product | 1-(9-Chloro-3-ethyl-3H-pyrazolo[4′,3′:5,6]pyrido[3,4-d]pyridazin-6-yl)-4-piperidinol | 3.2 g, 80% yield | ClC=1C2=C(C(=NN1)N1CCC(CC1)O)C=NC1=C2C=NN1CC | C15H17ClN6O
